US07816371B2
d. (R)-2-(5-Amino-1-oxoisoquinolin-2(1H)-yl)-N-cyclopropylpropanamide
(R)-N-Cyclopropyl-2-(5-nitro-1-oxoisoquinolin-2(1H)-yl)propanamide (0.6 g, 0.002 mol) was stirred with palladium 10% wt. on calcium carbonate (0.1 g, 0.00005 mol) in methanol (30 mL, 0.7 mol) under hydrogen (balloon) over 1 h at room temperature. The catalyst was filtered, the filtrate was concentrated to dryness gave a brown solid. MS m/z 271.7 (M+H)+.

reactant | (R)-N-Cyclopropyl-2-(5-nitro-1-oxoisoquinolin-2(1H)-yl)propanamide | 0.002 mol, 0.6 g | C1(CC1)NC([C@@H](C)N1C(C2=CC=CC(=C2C=C1)[N+](=O)[O-])=O)=O | C15H15N3O4
reactant | methanol | 0.7 mol, 30 mL | CO | CH4O
catalyst | palladium | [Pd] | Pd
product | (R)-2-(5-Amino-1-oxoisoquinolin-2(1H)-yl)-N-cyclopropylpropanamide | NC1=C2C=CN(C(C2=CC=C1)=O)[C@@H](C(=O)NC1CC1)C | C15H17N3O2
